US07763602B2
Step 1: 1-(4-chlorophenyl)pentane-1,4-dione
To a well stirred suspension of anhydrous aluminium chloride (29.66 g, 0.223 mol) in 154.7 ml of chlorobenzene was added 4-oxopentanoylchloride (25.0 g, 0.187 mol) drop-wise, over a period of 30-35 minutes at room temperature (25-30° C.). The reaction mixture was stirred at the same temperature for 1 hour. After decomposition of the reaction mixture by the addition of solid ice and hydrochloric acid (10 ml) the precipitated solid was filtered and filtrate was concentrated in a rotary evaporation to remove all the solvents. The residue was dissolved in ethyl acetate (400 ml), washed with water (2×100 ml), brine (100 ml). The organic layer was dried over anhydrous sodium sulfate and the solvent evaporated off. The crude product so obtained was chromatographed over silica gel (100-200 mesh) using chloroform-hexane (90:10) as eluent to give 5.3 g (13.60%) of the title compound.

reactant | aluminium chloride | 0.223 mol, 29.66 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-oxopentanoylchloride | 0.187 mol, 25.0 g | O=C(CCC(=O)Cl)C | C5H7ClO2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | chlorobenzene | 154.7 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(4-chlorophenyl)pentane-1,4-dione | 5.3 g, 13.60% | ClC1=CC=C(C=C1)C(CCC(C)=O)=O | C11H11ClO2
